US05122523
2.15 g of (2S,3S)-4-benzyloxy-2,3-epoxy-1-butanol was dissolved in 13 ml of dry DMF, and 1.83 g of imidazole and 2 g of tert-butyldimethylchlorosilane were added thereto. The mixture was stirred at room temperature overnight. The reaction solution was diluted with ethyl acetate, washed sequentially with cold 1N hydrochloric acid, water and a saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate. Then, the solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=10/1) to obtain 2.3 g of (2S,3S)-4-benzyloxy-2,3-epoxy-1-butanol tert-butyldimethylsilyl ether as colorless oily substance.

reactant | (2S,3S)-4-benzyloxy-2,3-epoxy-1-butanol | 2.15 g | C(C1=CC=CC=C1)OC[C@H]1[C@H](CO)O1 | C11H14O3
reactant | imidazole | 1.83 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylchlorosilane | 2 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
solvent | DMF | 13 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2S,3S)-4-benzyloxy-2,3-epoxy-1-butanol tert-butyldimethylsilyl ether | 2.3 g | [Si](C)(C)(C(C)(C)C)OC[C@H]1[C@H](COCC2=CC=CC=C2)O1 | C17H28O3Si
